US06333431B1
Separately, 0.9 ml of absolute ethanol and two drops of carbon tetrachloride were added to 0.4 g of metallic magnesium. When a reaction began, a mixture of 2.6 ml of diethyl malonate, 1.6 ml of absolute ethanol and 6 ml of toluene was added dropwise to the reaction mixture at a temperature not higher than 60° C., followed by stirring at 60° C. for 1 hour to give ethoxymagnesium ethyl malonate.

reactant | ethanol | 0.9 ml | C(C)O | C2H6O
reactant | magnesium | 0.4 g | [Mg] | Mg
reactant | diethyl malonate | 2.6 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | ethanol | 1.6 ml | C(C)O | C2H6O
catalyst | carbon tetrachloride | two drops | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | ethoxymagnesium ethyl malonate | C(C)C(C(=O)[O-])C(=O)[O-].C(C)O[Mg+2] | InChI=1S/C5H8O4.C2H5O.Mg/c1-2-3(4(6)7)5(8)9;1-2-3;/h3H,2H2,1H3,(H,6,7)(H,8,9);2H2,1H3;/q;-1;+3/p-2
